US04898874
3-(4-Chlorophenyl)-2,1-benzisoxazole-7-acetic acid
A mixture of 3.9 g (0.015 mole) of 3-(4-chlorophenyl)-2,1-benzisoxazol-7-acetonitrile, 10 ml of 20% sodium hydroxide and 75 ml of 95% ethanol was heated at reflux under a nitrogen atmosphere for 17 hr. The mixture was poured into 600 ml of water and filtered. The filtrate was treated with charcoal and filtered through Celite. The filtrate was adjusted to pH 7 with concentrated hydrochloric acid and the mixture filtered. The filtrate was made acidic with concentrated hydrochloric acid and a solid precipitated. The solid was collected by filtration and recrystallized from 2-propanol to yield 1.6 g (38%) of pale-yellow needles, m.p. 200°-202° C. with decomposition.

reactant | 3-(4-chlorophenyl)-2,1-benzisoxazol-7-acetonitrile | 0.015 mole, 3.9 g | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2CC#N | C15H9ClN2O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | ethanol | 75 ml | C(C)O | C2H6O
reactant | water | 600 ml | O | H2O
product | 3-(4-Chlorophenyl)-2,1-benzisoxazole-7-acetic acid | 1.6 g, 38% | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2CC(=O)O | C15H10ClNO3
